US05733928
3-[[(1,1-Dimethylethoxy)carbonyl]amino]-21-[(1,1-dimethylethoxy)carbonyl]-12,15-dioxo-16-oxa-2,4,11,14,21,25-hexaazahexacos-2-enedioic acid, bis-(1,1-dimethylethyl) ester
1 g (2.89·10-3 mol) of [3-[[(1,1-dimethyl-ethoxy)carbonyl]amino]propyl](4-hydroxybutyl)carbamic acid, 1,1-dimethylethyl ester is dissolved in 20 ml of tetrahydrofuran (THF), and 0.45 g (4.5·10-3 mol) of triethylamine is added followed by a solution of 0.58 g (2.89·10-3 mol) of 4-nitrophenyl chloroformate in 5 ml of THF. The reaction mixture is stirred for 15 hours at room temperature, a solution of 1.2 g (2.89·10-3 mol) of 13-amino-3-[[(1,1-dimethylethoxy)carbonyl]-amino]-12-oxo-2,4,11-triazatridec-2-enoic acid, 1,1-dimethylethyl ester in 6 ml of THF is then added and the reaction mixture is heated to 40° C. and stirred for 5 hours. After concentration of the reaction medium under reduced pressure, the residue is purified by medium pressure chromatography on silica gel using a methylcyclohexane/ethyl acetate mixture (7/3; v/v) and then pure ethyl acetate as the eluent to give 1 g of the expected product in the form of a transparent oil (yield=44%).

reactant | [3-[[(1,1-dimethyl-ethoxy)carbonyl]amino]propyl](4-hydroxybutyl)carbamic acid, 1,1-dimethylethyl ester | 10-3 mol, 1 g | CC(C)(OC(=O)NCCCN(C(OC(C)(C)C)=O)CCCCO)C | C17H34N2O5
reactant | triethylamine | 10-3 mol, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 10-3 mol, 0.58 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 13-amino-3-[[(1,1-dimethylethoxy)carbonyl]-amino]-12-oxo-2,4,11-triazatridec-2-enoic acid, 1,1-dimethylethyl ester | 10-3 mol, 1.2 g | NCC(NCCCCCCNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C19H37N5O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[(1,1-Dimethylethoxy)carbonyl]amino]-21-[(1,1-dimethylethoxy)carbonyl]-12,15-dioxo-16-oxa-2,4,11,14,21,25-hexaazahexacos-2-enedioic acid, bis-(1,1-dimethylethyl) ester | 1 g | CC(C)(OC(=O)NC(=NC(=O)OC(C)(C)C)NCCCCCCNC(CNC(OCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)=O)C | C37H69N7O11
